US06538152B1
To a solution of ethyl 2-[2-bromo-4-(2-bromoacetyl)phenoxy]acetate (2.12 g) in trifluoroacetic acid (4.29 ml) was added triethylsilane (2.67 ml), and the mixture was stirred for 1 hour at 50° C. After concentration of the reaction mixture under reduced pressure, purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) gave ethyl 2-[2-bromo-4-(2-bromoethyl)phenoxy]acetate (1.84 g).

reactant | ethyl 2-[2-bromo-4-(2-bromoacetyl)phenoxy]acetate | 2.12 g | BrC1=C(OCC(=O)OCC)C=CC(=C1)C(CBr)=O | C12H12Br2O4
reactant | triethylsilane | 2.67 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 4.29 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 2-[2-bromo-4-(2-bromoethyl)phenoxy]acetate | 1.84 g | BrC1=C(OCC(=O)OCC)C=CC(=C1)CCBr | C12H14Br2O3
